US06710055B2
a) 1-Methyl-2-[N-(4-cyanophenyl)aminomethyl]benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(3-tert-butyloxycarbonylpropyl)amide
Prepared analogously to Example 25c from N-(4-cyanophenyl)glycine and 3-amino-4-methylaminobenzoic acid-N-phenyl-N-(3-tert-butyloxycarbonylpropyl)amide. Yield: 65% of theory; Rf value: 0.17 (silica gel; dichloromethane/methanol=19:1).

reactant | N-(4-cyanophenyl)glycine | C(#N)C1=CC=C(C=C1)NCC(=O)O | C9H8N2O2
reactant | 3-amino-4-methylaminobenzoic acid-N-phenyl-N-(3-tert-butyloxycarbonylpropyl)amide | C1(=CC=CC=C1)N(C(C1=CC(=C(C=C1)NC)N)=O)CCCC(=O)OC(C)(C)C | C22H29N3O3
solvent | dichloromethane methanol | ClCCl.CO
product | 1-Methyl-2-[N-(4-cyanophenyl)aminomethyl]benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(3-tert-butyloxycarbonylpropyl)amide | Yield: 65% | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C#N)C)C=C1)CCCC(=O)OC(C)(C)C | C31H33N5O3
